US05985872
To an ice cooled solution of 2-amino-5-iodobenzoic acid (540 mg, 2.03 mmol) and sodium bicarbonate (170 mg, 2.03 mmol) in 9 mL of dioxane/water (2:1) was added 2,6-dichlorophenylisocyanate (468 mg, 2.44 mmol). The reaction was slowly warmed to room temperature while stirring overnight. The reaction mixture was acidified with 2N HCl and extracted with EtOAc. The product, which partially precipitated from the organic layer, was filtered and washed with EtOAc (173 mg). The filtrate was dried (MgSO4) and evaporated under reduced pressure. Trituration of the residue with Et2O afforded an additional 543 mg of 2-[3-(2,6-dichlorophenyl)ureido]-5-iodobenzoic acid: 1H-NMR (300 MHz, d6 -DMSO) δ 7.37 (t, J=8 Hz, 1H), 7.58 (d, J=8 Hz, 2H), 7.84 (dd, J=8 Hz, 4 Hz, 1H), 8.19 (d, J=4 Hz, 1H), 8.28 (d, J=8 Hz, 1H), 9.60 (s, 1H, exchangeable), 10.50 (s, 1H, exchangeable).

reactant | 2-amino-5-iodobenzoic acid | 2.03 mmol, 540 mg | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | sodium bicarbonate | 2.03 mmol, 170 mg | C([O-])(O)=O.[Na+]
reactant | 2,6-dichlorophenylisocyanate | 2.44 mmol, 468 mg | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | HCl | 2N | Cl | ClH
solvent | dioxane water | 9 mL | O1CCOCC1.O
product | 2-[3-(2,6-dichlorophenyl)ureido]-5-iodobenzoic acid | 543 mg | ClC1=C(C(=CC=C1)Cl)NC(NC1=C(C(=O)O)C=C(C=C1)I)=O | C14H9Cl2IN2O3
